US20010025042A1
Part A: 1-Acetyl-5-bromoindoline (2.47 g, 10.29 mmol) was heated at reflux with N-chlorosuccinimide (1.56 g, 10.40 mmol) in CH3CN for 30 min and an additional amount NCS (1 g, 7.47 mmol) was added while hot and the reaction was stirred at 25° C. for 16 h. The solvent was stripped in vacuo and the residue was chromatographed on silica gel using 20% EtOAc/hexanes as eluent to give 1-acetyl-5-bromo-7-chloroindoline (1.17 g).

reactant | 1-Acetyl-5-bromoindoline | 10.29 mmol, 2.47 g | C(C)(=O)N1CCC2=CC(=CC=C12)Br | C10H10BrNO
reactant | N-chlorosuccinimide | 10.40 mmol, 1.56 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | NCS | 7.47 mmol, 1 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | CH3CN | CC#N | C2H3N
product | 1-acetyl-5-bromo-7-chloroindoline | 1.17 g | C(C)(=O)N1CCC2=CC(=CC(=C12)Cl)Br | C10H9BrClNO
